Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Right-sided weakness and difficulty speaking
 
Major Surgical or Invasive Procedure:
Endoscopic Ultrasound of the Pancreas fine needle aspiration

 
History of Present Illness:
PER ADMITTING RESIDENT:
Patient is a ___ yo RHM with hx of HTN, hyperlipidemia and
possible metastatic cancer of unknown primary here with acute R
sided weakness who was initially evaluated at ___
before transfer here.  Neurology consult was requested as code
stroke.

Per patient's son and records, patient was having dinner around
8:30 when a friend called.  The son brought the phone for the
patient but without conversing much, the patient handed the 
phone
back to his son.  The son asked his father some questions to
which the patient would only give intermittent one-word answers
and the patient was noted not move his R side at all.  The son
noted that the patient was only giving occasional answers to his
questions and appeared to have blank stares at times.  The
patient was also only moving his L side and at times appeared to 
be
fumbling with his L hand.  The son was concerned about the
patient possibly having a stroke hence EMS was called and 
patient
was taken to ___ where he was found to have
new-onset Afib with RVR and ___ CT showing possible subacute L
occipital infarct.  Although patient arrived within ~ 2 hrs of
onset of R sided weakness, given the question of metastatic
cancer, IVtPA was not given and the patient was transferred here
for further care.  Patient did receive ASA 300mg per rectum.

Per son, patient was due to have a pancreatic biopsy on ___ to 
look for
the primary source of his multiple nodules and pleural effusion
concerning for metastatic cancer.  Lately, his appetite has been
poor and he has been moving more slowly. At baseline, patient
lives alone and independent in his ADLs including ambulation and
medication management.  Otherwise, negative ROS.

The son denied any known hx of strokes.  He was unsure if the
patient had been taking aspirin or if it had been held since
colonoscopy recently.  Per son, the patient's R sided weakness
and sparse speech was not fluctuating since the onset around 
8:30
on the evening of presentation.  
 
Past Medical History:
1. Metastatic malignancy - primary unknown (found to be 
pancreatic during this hospitalization)
2. HTN
3. Hyperlipidemia
4. Hx of colonic polyps (benign) 
5. Gastritis
6. Chronic bilateral hip pain

 
Social History:
___
Family History:
- non-contributory
 
Physical Exam:
ON ADMISSION:
T 98.7 BP 114/88 HR 117 RR 15 O2Sat 100% RA
Gen: Lying in bed, NAD
HEENT: Dry oral mucosa   
Neck: No carotid or vertebral bruit
CV: RRR - currently sinus rhythm but was initially in Afib upon
arrival. No murmurs/gallops/rubs 
Lung: Clear 
Abd: +BS, soft, nondistended. 
Ext: No edema

Neurologic examination: 
Mental status: Awake and alert, cooperative with exam - follows
commands but intermittently only. Oriented to self and ___ but not date.  Mild dysnomia - intact repetition and
occasional bursts of fluent speech but usually only 1 word
answers.  Appears less attentive to R - initially was not
answering when asked about his R hand but later in the exam
reports that its his R hand.
 
Cranial Nerves:  
II: Pupils equally round and reactive to light, 4 to 2 mm
bilaterally. Less consistent blinking to threat on R - ?R
hemianopsia.
III, IV & VI: Extraocular movements intact bilaterally, no
nystagmus. 
V: Sensation intact to LT and PP.  
VII: Facial movement symmetric.    
X: Palate elevation symmetrical.  
XII: Tongue midline, movements intact
 
Motor: 
Normal bulk and tone bilaterally. No observed myoclonus or
tremor. 
Profound weakness on R - no resistance to gravity in R but
appears full strength on L although 4+ on L IP.
 
Sensation: Intact to light touch and pinprick.
 
Reflexes: 
2s for UEs and trace for patellar but no Achilles.  Toes upgoing
on R only.  
 
Coordination: FTN and FTF normal on L - did not test on R. 
 
Gait: Deferred.

 
Pertinent Results:
Laboratory Studies:
WBC-14.8*# RBC-4.33* HGB-12.2* HCT-37.6* MCV-87 PLT-273
GLUCOSE-162* UREA N-56* CREAT-1.7* SODIUM-133 POTASSIUM-4.5 
CHLORIDE-100 TOTAL CO2-18* ANION GAP-20
___ PTT-28.1 ___
URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR GLUCOSE-NEG KETONE-NEG 
BILIRUBIN-NEG UROBILNGN-2* PH-5.5 LEUK-NEG
TSH 1.4, Free T4 = 1.6, T3 = 71

Modifiable Stroke Risk Factors:
TRIGLYCER-111 HDL CHOL-22 CHOL/HDL-5.0 LDL(CALC)-67
%HbA1c-6.2*

Imaging
CT/A/P ___, Neck (___):
IMPRESSION: 
1. Nonspecific CTP study. Please see the concurrent MR of the 
___ study for details regarding the acute infarcts. No acute 
intracranial hemorrhage. 
2. Patent major intracranial arteries of the ___ and neck, with 
the evidence of mild atherosclerotic disease; no flow-limiting 
stenosis. Diminutive caliber of the right vertebral artery 
diffusely and the A1 segment of the right anterior cerebral 
artery, likely variant appearances. 
3. Focal prominence of the left MCA trifurcation, having a 
maximum dimension of 5.8mm on the axial images- prominent 
infundibulum/ aneurysm. INR consult can be considered to decide 
further management. 
4. Incidental findings of a large thyroid heterogeneous mass, 
with extension into the upper mediastinum displacing the common 
carotid artery on the left and the trachea to the right. Further 
evaluation with ultrasound can be considered. 
5. Multilevel extensive C-spine degenerative changes as 
described above, 
inadequately characterized with mild spinal canal stenosis and 
moderate-to-
severe neural foraminal narrowing. Please see the details on the 
CT torso 
study performed on ___ for additional details. 

MR ___ without contrast (___):
IMPRESSION:  
Multiple acute infarcts in the bilateral ACA, left PCA territory 
and possibly few tiny lesions, in the right ACA/MCA watershed 
zone/extending into the MCA territory. The overall appearance 
likely relates to an embolic etiology. 

Transesophageal Echocardiogram (___):
IMPRESSION: 
Suboptimal image quality. Preserved biventricular global 
systolic function (LVEF>55%). Mild concentric left ventricular 
hypertrophy. No obvious cardiac source of embolism, but poor 
image quality.  

Video Oropharyngeal Swallow Study (___):
IMPRESSION: No evidence of aspiration or penetration.

Renal U/S ___: IMPRESSION: No hydronephrosis.
Lower Extremity U/S ___: DVT of the left common femoral vein 
down to the mid superficial femoral vein. Thrombus also seen 
within the left posterior tibial veins. 

Pancreatic FNA: SUSPICIOUS FOR ADENOCARCINOMA.

Thyroid U/S: Large nodule seen in the left thyroid lobe 
consistent with previously seen nodule on CT. This is amenable 
to biopsy. 

 
Brief Hospital Course:
Mr. ___ is an ___ year old gentleman admitted for embolic 
stroke and to complete a malignancy work up.  While admitted it 
was determined he has pancreatic adenocarcinoma.  Based on 
discussions with the patient and his family goals of care were 
shifted to comfort based. His problems addressed during this 
hospital were as follows:

1. Stroke: Initially admitted to the neuro team, the patient was 
found to have multiple embolic strokes resulting in R sided 
weakness and aphasia.  The aphasia did improve during the 
hospitalization.  He was maintained on heparin drip until a GI 
bleed developed.  He was maintained on simvastatin until change 
in goals of care.

2. Acute renal failure: The patient developed pre-renal renal 
failure with a history of chronic kidney disease that did 
respond to hydration.  Renal was consulted and confirmed the 
same, with a possible AIN component.  The patient's course was 
complicated by non-gap acidosis, hypercalcemia, hypermagnesemia 
and hyperkalemia that were addressed until change in goals of 
care. Fluids were stopped and the patient was switched to oral 
feeding once the goals of care changed. 

3. Pancreatic Adenocarcinoma: Diagnoses confirmed by FNA.  
Oncology consulted and patient declined palliative chemotherapy 
at this time.  The patient also had an ongoing malignant 
effusion which was not direct intervened upon due to goals of 
care.

4. DVT: The patient was found to have DVT while already on 
heparin.  Heparin was stopped due to GI bleed and goals of care. 
 No other intervention per patient's wishes.

5. Lower GI Bleed: The patient had frankly bloody stools likely 
a hemorrhoidal bleed without a change in hemodynamics.  Heparin 
was held and no intervention per the patient's wishes.

6. Atrial fibrillation: The patient was in rate controlled 
atrial fibrillation on metoprolol.  This medicine was 
discontinued per goals of care.

7. Coagulopathy: The patient developed an unclear coagulopathy 
while on heparin that did temporarily respond to vitamin k.

8. H. Pylori: The patient was treated for H. Pylori.  
Amoxicillin was stopped due to possible drug rash.  The entire 
therapy was stopped due to patient wishes. 
 
Medications on Admission:
1. ASA - discontinued prior to admission for colonoscopy and 
scheduled pancreatic biopsy
2. HCTZ 25mg
3. Losartan 100mg
4. Bioflex
5. Vitamin B12
6. Vitamin E
7. Omeprazole 20mg daily
8. ? Mevacor 
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for T>100.4 or pain.  
2. Dronabinol 2.5 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
3. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for Itch.
Disp:*1 Bottle* Refills:*0*
4. Morphine Concentrate 20 mg/mL Solution Sig: ___ mg PO Q6H 
(every 6 hours): 5 mg = 0.25 ml; 10 mg = 0.5 ml.  
5. Morphine Concentrate 20 mg/mL Solution Sig: ___ mg PO Q2H 
(every 2 hours) as needed for pain, tachypnea: 5 mg = 0.25 ml; 
10 mg = 0.5 ml .  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
1. Embolic Stroke
2. Lower GI bleed
3. Acute renal failure

Secondary Diagnoses:
1. Pancreatic Adenocarcinoma
2. Atrial fibrillation
3. Chronic kidney disease

 
Discharge Condition:
Largely unarousable. Appears comfortable.

 
Discharge Instructions:
You have been admitted to the hospital because of a stroke.  
While you were here we were able to complete your on-going work 
up and have come to the unfortunate diagnosis of Pancreatic 
Cancer.  Based on your wishes we have shifted the focus of our 
care to maximize your comfort and quality of life and this care 
will continue at the ___.
 
Followup Instructions:
___